US04082751
Preparation 56: 1,6-Dihydro-6-oxo-2-(2-allyloxyphenyl)pyrimidine-5-carbonitrile
A solution of 1,6-dihydro-6-oxo-2-(2-allyloxyphenyl)pyrimidine-5-carboxamide (3.58 g.) in phosphorus oxychloride (60 ml.) was heated under reflux for 2 hours. The solution was evaporated to dryness. The residue was cooled in ice and then treated cautiously with ice-water. The mixture was warmed to 25° and then heated on a steam bath for 15 minutes. The solid was collected, washed with cold water, and recrystallized from benzene-Skellysolve B to give the title compound (2.3 g., 69%), m.p. 162°-164°.

reactant | 1,6-dihydro-6-oxo-2-(2-allyloxyphenyl)pyrimidine-5-carboxamide | 3.58 g | O=C1C(=CN=C(N1)C1=C(C=CC=C1)OCC=C)C(=O)N | C14H13N3O3
solvent | phosphorus oxychloride | 60 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1,6-Dihydro-6-oxo-2-(2-allyloxyphenyl)pyrimidine-5-carbonitrile | 2.3 g, 69% | O=C1C(=CN=C(N1)C1=C(C=CC=C1)OCC=C)C#N | C14H11N3O2
